US08283475B2
N-[1-Cyano-2-(4,6-dichloro-2H-benzotriazol-2-yl)-1-methylethyl]biphenyl-4-carboxamide (compound No 1.046)
Using a procedure similar to that described in Example 1, except using 2-amino-3-(4,6-dichloro-2H-benzotriazol-2-yl)-2-methylpropionitrile, described in Example 15, and 4-biphenyl carbonyl chloride, the title compound was isolated as a white solid (32 mg). MS (ES): M/Z [M+H]=450. NMR: (400 MHz, DMSO-d6): 1.78 (s, 3H), 5.45 (d, J=13.3 Hz, 1H), 5.55 (d, J=13.3 Hz, 1H), 7.43 (m, 1H), 7.51 (t, J=7.5 Hz, 1H), 7.70-7.78 (m, 3H), 7.81 (d, J=8.4 Hz, 2H), 7.90 (d, J=8.5 Hz, 2H), 8.18 (d, J=1.6 Hz, 1H) and 8.83 (s, 1H).

reactant | 2-amino-3-(4,6-dichloro-2H-benzotriazol-2-yl)-2-methylpropionitrile | NC(C#N)(CN1N=C2C(=N1)C=C(C=C2Cl)Cl)C | C10H9Cl2N5
reactant | 4-biphenyl carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | N-[1-Cyano-2-(4,6-dichloro-2H-benzotriazol-2-yl)-1-methylethyl]biphenyl-4-carboxamide | C(#N)C(CN1N=C2C(=N1)C=C(C=C2Cl)Cl)(C)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C23H17Cl2N5O
